US04423047
2-Phenylthio-5-bromopyrimidine
The title compound was prepared from 2-chloro-5-bromo-pyrimidine and thiophenol as described in Example 1; yield: 90% of a non-crystalline product which was pure enough for the successive oxidation. MS m/e: 267 (M, 100%). 1H NMR (CDCl3): δ7.4 (Ph), 8.50 (H-4, H-6).

reactant | 2-chloro-5-bromo-pyrimidine | ClC1=NC=C(C=N1)Br | C4H2BrClN2
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 2-Phenylthio-5-bromopyrimidine | C1(=CC=CC=C1)SC1=NC=C(C=N1)Br | C10H7BrN2S
